US05192779
To a solution of 2-(cyanoimino)imidazolidine (0.28 g) in dimethyl sulfoxide (10 ml}was added 60% sodium hydride dispersed in mineral oil (0.1 g) and the mixture was stirred at room temperature for 25 minutes. After an addition of N-(4-chloro-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide (0.40 g), the mixture was stirred at the same temperature for further 45 minutes and then quenched with cold water (50 ml). The mixture was extracted with ethyl acetate (50 ml×3). The combined extracts were washed with sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol (20:1) as an eluent to give N-[4-{2-(cyanoimino)-1-imidazolidinyl}-2-butynyl]-2-cyclohexyl-2-hydroxy-2-phenylacetamide (0.37 g).

reactant | 2-(cyanoimino)imidazolidine | 0.28 g | C(#N)N=C1NCCN1 | C4H6N4
reactant | sodium hydride | [H-].[Na+]
reactant | N-(4-chloro-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 0.40 g | ClCC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C18H22ClNO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | N-[4-{2-(cyanoimino)-1-imidazolidinyl}-2-butynyl]-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 0.37 g | C(#N)N=C1N(CCN1)CC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C22H27N5O2
